US06822100B2
The crude 2-(1H-indol-6-yl)-cyclopropanecarbaldehyde was dissolved in methanol at room temperature with stirring. Dimethylamine (1M solution in THF, 20.00 mL, 20.00 mmol) was added followed by sodium triacetoxyborohydride (4.24 g, 20.00 mmol) After 15 h of stirring at room temperature, the solution was concentrated to dryness in vacuo. The residue was then partitioned between methylene chloride and 1 N NaOH solution. The layers were separated, and the organic layer dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude amine was purified by flash chromatography (50% MeOH/EtOAc) to give [2-(1H-indol-6-yl)-cyclopropylmethyl]-dimethyl-amine as a yellow solid (0.62 g, 74% for the two reactions). 1H NMR (CDCl3): δ 8.61 (bs, 1H), 7.51 (d, J=8.4 Hz, 1H), 7.08 (t, J=2.7 Hz, 1H), 7.06 (s, 1H), 6.86 (dd, J=11.4, 1.8 Hz, 1H), 6.47 (m, 1H), 2.51 (m, 1H), 2.35 (s, 7H), 1.85 (m, 1H), 0.99 (m, 1H), and 0.85 (m, 1H); LCMS: MH+: 215.16, 78% AP.

reactant | 2-(1H-indol-6-yl)-cyclopropanecarbaldehyde | N1C=CC2=CC=C(C=C12)C1C(C1)C=O | C12H11NO
reactant | Dimethylamine | 20.00 mmol, 1M, 20.00 mL | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 20.00 mmol, 4.24 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | CO | CH4O
product | [2-(1H-indol-6-yl)-cyclopropylmethyl]-dimethyl-amine | N1C=CC2=CC=C(C=C12)C1C(C1)CN(C)C | C14H18N2
